US08497264B2
A solution of i-Pr2NH (828 mL, 5.85 mol) in anhydrous THF (1.3 L) was cooled to −10° C. n-BuLi (1.6 M in hexanes, 3660 mL, 5.85 mol) was added and the solution was stirred for 10 min at 0° C. The reaction mixture was cooled to −78° C. and a solution of 2-chloro-6-fluoropyridine (700 g, 5.32 mol) in anhydrous THF (1.3 L) was slowly added keeping the internal temperature below −60° C. After the addition was complete, the reaction mixture was stirred for an additional hour and then a solution of triisopropyl borate (1221 mL, 5.32 mol) in anhydrous THF (620 mL) was added drop wise keeping the internal temperature below −60° C. After the addition, the reaction mixture was warmed to RT and stirred over night. Water (3 L) was added and the mixture was stirred vigorously. The reaction mixture was concentrated under reduced pressure. The residue was treated with a cold aqueous solution of NaOH (10 M, 1610 mL, 16.0 mol) and 50% H2O2 (392 mL, 6.92 mol) and stirred over night (Note: the internal temperature increased slowly from 5 to 60° C.). The reaction mixture was quenched with ice and 4N HCl until pH of the mixture was ˜5. EtOAc (5 L) was added and stirred well. After phase separation, the aqueous layer was extracted with EtOAc (1.5 L×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to provide 6-chloro-2-fluoropyridin-3-ol as an off white solid.

reactant | i-Pr2NH | 5.85 mol, 828 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 5.85 mol, 1.6 M, 3660 mL | [Li]CCCC
reactant | 2-chloro-6-fluoropyridine | 5.32 mol, 700 g | ClC1=NC(=CC=C1)F | C5H3ClFN
reactant | triisopropyl borate | 5.32 mol, 1221 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | NaOH | 16.0 mol, 10 M, 1610 mL | [OH-].[Na+]
reactant | H2O2 | 6.92 mol, 392 mL | OO | H2O2
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
solvent | THF | 620 mL | C1CCOC1 | C4H8O
solvent | Water | 3 L | O | H2O
product | 6-chloro-2-fluoropyridin-3-ol | ClC1=CC=C(C(=N1)F)O | C5H3ClFNO
